US06403610B1
2.26 g of methyl(3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate, dissolved beforehand in 50 cm3 of acetonitrile, were added dropwise, with stirring and at a temperature in the region of 20° C., followed by 6.91 g of potassium carbonate and 2 g of potassium iodide, to a solution of 4 g of 1-[(2-chloroethyl)thio]-3-fluorobenzene in 50 cm3 of acetonitrile. The mixture was heated for 18 hours at a temperature in the region of 70° C. After a further addition of 0.3 g of potassium iodide and additional heating at a temperature in the region of 70° C. for 4 hours, the reaction mass was cooled to approximately 20° C., 200 cm3 of water were added and extraction was carried out with 2 times 150 cm3 of ethyl acetate. The combined extracts were washed with 300 cm3 of water, dried over magnesium sulfate, filtered, and evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μ; diameter 5.2 cm; silica volume 950 cm3), elution was carried out with a dichloromethane/methanol (99/1 by volume) mixture, and approximately 6-cm3 fractions were collected. Fractions 24 to 36 were combined and concentrated under the above conditions. 3.3 g of methyl (3R,4R)-1-[2-(3-fluorophenylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate were obtained in the form of an oil with a yellow color.

reactant | methyl(3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 2.26 g | O=C(CC[C@H]1[C@H](CNCC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C21H26N2O4
reactant | potassium carbonate | 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | 1-[(2-chloroethyl)thio]-3-fluorobenzene | 4 g | ClCCSC1=CC(=CC=C1)F | C8H8ClFS
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
solvent | water | 200 cm3 | O | H2O
product | methyl (3R,4R)-1-[2-(3-fluorophenylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 3.3 g | FC=1C=C(C=CC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=O)CC(=O)OC | C29H33FN2O4S
